US07323431B2
Preparation of 2,2-dimethyl-1,3-bis[(trimethylsilyl)oxy]propane
0.6 g of 2,2-dimethyl-1,3-propandiol was admixed with 20 ml of dichloromethane. The mixture was cooled in ice-water bath, thereto was added 2.09 ml of triethyl amine, followed by the addition of 1.76 ml of trimethylsilyl chloride. The mixture was stirred in ice-water bath for further 2 hours. The reaction mixture was washed with water, and the organic layer separated was dried over anhydrous sodium sulfate. After filtration, the filtrate was evaporated to give 1.23 g of concentrate. The crude product was purified by column chromatography using petroleum ether as eluent, to give colorless pure compound.

reactant | 2,2-dimethyl-1,3-propandiol | 0.6 g | CC(CO)(CO)C | C5H12O2
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | trimethylsilyl chloride | 1.76 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | triethyl amine | 2.09 ml | C(C)N(CC)CC | C6H15N
product | 2,2-dimethyl-1,3-bis[(trimethylsilyl)oxy]propane | CC(CO[Si](C)(C)C)(CO[Si](C)(C)C)C | C11H28O2Si2
